US08486950B2
2,6-dichloro-N-(2-(4-methylpyrimidin-2-ylamino)pyridin-4-yl)benzamide
To a microwave tube were added N-(2-bromopyridin-4-yl)-2,6-dichlorobenzamide (0.15 g, 0.43 mmol), 2-amino-4-methylpyrimidine (0.056 g, 0.52 mmol), Pd2(dba)3 (0.040 g, 0.043 mmol), XantPhos (0.050 g, 0.087 mmol), Cs2CO3 (0.28 g, 0.87 mmol) and dioxane (2 mL). The mixture was degassed with N2 for 10 min. The resulting mixture was irradiated in a microwave reactor at 140° C. for 3 hours and then cooled to room temperature. The mixture was filtered through Celite and concentrated under reduced pressure. The residue was dissolved in DMF and purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired product as a white solid (19 mg, yield: 12%). 1H NMR (500 MHz, MeOH-d4): δ 8.88 (s, 1H), 8.36 (d, J=5.5 Hz, 1H), 8.16 (d, J=6.0 Hz, 1H), 7.64 (s, 1H), 7.45-7.38 (m, 4H), 6.85 (d, J=5.5 Hz, 1H), 2.50 (s, 3H). LCMS (ESI) m/z: 374.0 [M+H+].

reactant | N-(2-bromopyridin-4-yl)-2,6-dichlorobenzamide | 0.43 mmol, 0.15 g | BrC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H7BrCl2N2O
reactant | 2-amino-4-methylpyrimidine | 0.52 mmol, 0.056 g | NC1=NC=CC(=N1)C | C5H7N3
reactant | XantPhos | 0.087 mmol, 0.050 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.87 mmol, 0.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.043 mmol, 0.040 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2,6-dichloro-N-(2-(4-methylpyrimidin-2-ylamino)pyridin-4-yl)benzamide | 19 mg, yield: 12% | ClC1=C(C(=O)NC2=CC(=NC=C2)NC2=NC=CC(=N2)C)C(=CC=C1)Cl | C17H13Cl2N5O
